US06057329
The 3,4-dihydro-2-dimethylaminomethylene-7-methoxy-4-methyl-1(2H)-naphthalenone starting material was prepared from 3,4-dihydro-7-methoxy-4-methyl-1-(2H) naphthalenone (950 mg, 5.0 mmol) [Gupta, A S; et al Tetrahedron (1967), 23, 2481], and N,N-dimethylformamide diethyl acetal (2.6 ml, 15.0 mmol). The product was purified by chromatography on silica (70% ethyl acetate in hexane--ethyl acetate) to give 3,4-dihydro-2-dimethylaminomethylene-7-methoxy-4-methyl-1(2H) naphthalenone as a yellow oil (920 mg). δH (CDCl3) 7.77 (1H, s), 7.58 (1H, d, J 2.9 Hz), 7.12 (1H, d, J 8.4 Hz), 6.97 (1H, dd, J 2.9, 8.4 Hz), 3.85 (3H, s), 3.13 (6H, s), 3.01-2.90 (2H, m), 2.76-2.70 (1H, m) and 1.28 (3H, d, J 6.9 Hz). IR (liquid film) 1647 (s), 1547 (s) cm-1.

reactant | 3,4-dihydro-7-methoxy-4-methyl-1-(2H) naphthalenone | 5.0 mmol, 950 mg | COC1=CC=C2C(CCC(C2=C1)=O)C | C12H14O2
reactant | N,N-dimethylformamide diethyl acetal | 15.0 mmol, 2.6 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-dihydro-2-dimethylaminomethylene-7-methoxy-4-methyl-1(2H) naphthalenone | 920 mg | CN(C)C=C1C(C2=CC(=CC=C2C(C1)C)OC)=O | C15H19NO2
